US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-(1-methyl-piperidin-4-yl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one was condensed with 3,5-dimethyl-4-(1-methyl-piperidin-4-yl)-1H-pyrrole-2-carbaldehyde to give the titled compound.

reactant | 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 3,5-dimethyl-4-(1-methyl-piperidin-4-yl)-1H-pyrrole-2-carbaldehyde | CC1=C(NC(=C1C1CCN(CC1)C)C)C=O | C13H20N2O
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-(1-methyl-piperidin-4-yl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C1CCN(CC1)C)C | C28H29Cl2N3O3S
